
** Adder simulation stimulus file for hspiceD

*****************************Hspice 45nm node model selection *****************

.INCLUDE "/automnt/home/lab.apps/vlsiapps/kits/FreePDK45/ncsu_basekit/models/hspice/hspice_nom.include"

*****************************parameter settings ********************************
.param my_vdd=1.2V
.param my_sim_time=14ns
.param size=1
.param poutsize=450n

*****************************power rails ********************************
.GLOBAL vdd
.GLOBAL vdd!

vdd vdd gnd DC=my_vdd
vdd! vdd! gnd! DC=my_vdd

*****************************Simulation settings ******************************

.TRAN 5e-12 my_sim_time START=0.0
.OP

.TEMP 25
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    POST

*****************************Include your netlist here ************************

.INCLUDE "buf.netlist"
.INCLUDE "multiplier.netlist"

*to simulate your SRAM, you may create an instance in this file, or 
*comment out the .subckt and .end in your sram_layout.pex.netlist

.vec multiplier_1.vec

*****************************get the energy ***********************************

.meas tran Qtot integral i(vdd!) from=30ps to=my_sim_time
.meas tran Qtot2 integral i(vdd) from=30ps to=my_sim_time
.meas Etot param='my_vdd*(Qtot+Qtot2)

*****************************Clock define *************************************

Vclk inclk gnd pulse (0V my_vdd 30ps 20ps 20ps 0.98ns 2ns)

*****************************INPUTS *******************************************

* data inputs
xain<9> vdd gnd ain<9> a<9> minbuff
xain<8> vdd gnd ain<8> a<8> minbuff
xain<7> vdd gnd ain<7> a<7> minbuff
xain<6> vdd gnd ain<6> a<6> minbuff
xain<5> vdd gnd ain<5> a<5> minbuff
xain<4> vdd gnd ain<4> a<4> minbuff
xain<3> vdd gnd ain<3> a<3> minbuff
xain<2> vdd gnd ain<2> a<2> minbuff
xain<1> vdd gnd ain<1> a<1> minbuff
xain<0> vdd gnd ain<0> a<0> minbuff
x_ain<9> vdd gnd _ain<9> _a<9> minbuff
x_ain<8> vdd gnd _ain<8> _a<8> minbuff
x_ain<7> vdd gnd _ain<7> _a<7> minbuff
x_ain<6> vdd gnd _ain<6> _a<6> minbuff
x_ain<5> vdd gnd _ain<5> _a<5> minbuff
x_ain<4> vdd gnd _ain<4> _a<4> minbuff
x_ain<3> vdd gnd _ain<3> _a<3> minbuff
x_ain<2> vdd gnd _ain<2> _a<2> minbuff
x_ain<1> vdd gnd _ain<1> _a<1> minbuff
x_ain<0> vdd gnd _ain<0> _a<0> minbuff
xbin<9> vdd gnd bin<9> b<9> minbuff
xbin<8> vdd gnd bin<8> b<8> minbuff
xbin<7> vdd gnd bin<7> b<7> minbuff
xbin<6> vdd gnd bin<6> b<6> minbuff
xbin<5> vdd gnd bin<5> b<5> minbuff
xbin<4> vdd gnd bin<4> b<4> minbuff
xbin<3> vdd gnd bin<3> b<3> minbuff
xbin<2> vdd gnd bin<2> b<2> minbuff
xbin<1> vdd gnd bin<1> b<1> minbuff
xbin<0> vdd gnd bin<0> b<0> minbuff
x_bin<9> vdd gnd _bin<9> _b<9> minbuff
x_bin<8> vdd gnd _bin<8> _b<8> minbuff
x_bin<7> vdd gnd _bin<7> _b<7> minbuff
x_bin<6> vdd gnd _bin<6> _b<6> minbuff
x_bin<5> vdd gnd _bin<5> _b<5> minbuff
x_bin<4> vdd gnd _bin<4> _b<4> minbuff
x_bin<3> vdd gnd _bin<3> _b<3> minbuff
x_bin<2> vdd gnd _bin<2> _b<2> minbuff
x_bin<1> vdd gnd _bin<1> _b<1> minbuff
x_bin<0> vdd gnd _bin<0> _b<0> minbuff

* clock input
xclk vdd gnd inclk clk minbuff

*****************************OUTPUTS ***********************************

* the outputs with 50f load
c_outcap<19> p<19> gnd 50f
c_outcap<18> p<18> gnd 50f
c_outcap<17> p<17> gnd 50f
c_outcap<16> p<16> gnd 50f
c_outcap<15> p<15> gnd 50f
c_outcap<14> p<14> gnd 50f
c_outcap<13> p<13> gnd 50f
c_outcap<12> p<12> gnd 50f
c_outcap<11> p<11> gnd 50f
c_outcap<10> p<10> gnd 50f
c_outcap<9> p<9> gnd 50f
c_outcap<8> p<8> gnd 50f
c_outcap<7> p<7> gnd 50f
c_outcap<6> p<6> gnd 50f
c_outcap<5> p<5> gnd 50f
c_outcap<4> p<4> gnd 50f
c_outcap<3> p<3> gnd 50f
c_outcap<2> p<2> gnd 50f
c_outcap<1> p<1> gnd 50f
c_outcap<0> p<0> gnd 50f

.end
